US05668291
2,2'-Dithiobis(N-cyclopropylbenzamide)
A solution of 2,2'-dithiobisbenzoyl chloride (1.0 g, 3.0 mmol) in 20 mL of dichloromethane was added dropwise to a solution of cyclopropylamine (0.52 mL, 7.5 mmol) and triethylamine (1.2 mL, 9.0 mmol) in 20 mL of dichloromethane. A solid formed immediately, the mixture was stirred for 3 hours and then filtered. The solid was dried to yield 0.65 g of the title compound, mp 257°-259° C.;

reactant | 2,2'-dithiobisbenzoyl chloride | 3.0 mmol, 1.0 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | cyclopropylamine | 7.5 mmol, 0.52 mL | C1(CC1)N | C3H7N
reactant | triethylamine | 9.0 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2'-Dithiobis(N-cyclopropylbenzamide) | 0.65 g | C1(CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2CC2)C=CC=C1)=O | C20H20N2O2S2
